US05583146
A. (S)-2-(Azidomethyl)-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester
(S)-2-[[[(4-Methylphenyl)sulfonyl]oxy]methyl]-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester (3.55 g, 10 mmol, see J. Das et al, J. Med Chem, 1992, Vol.35,2610 for preparation) was dissolved in dimethyl sulfoxide (DMSO) (40 mL) and treated with sodium azide (980 mg, 15 mmol). The mixture was heated at 70° C. for 5 hours, then cooled and diluted with ether. After washing with water (3×50 mL), the ether layer was dried (MgSO4) and freed of solvent in vacuo to give title compound as a colorless oil (2.05 g, 91%) which was used without further purification.

reactant | (S)-2-[[[(4-Methylphenyl)sulfonyl]oxy]methyl]-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester | 10 mmol, 3.55 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C17H25NO5S
reactant | sodium azide | 15 mmol, 980 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | (S)-2-(Azidomethyl)-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester | 2.05 g, 91% | N(=[N+]=[N-])C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H18N4O2
